US05665271
28.9 g (0.1 mol) of trans-4-(4-bromobutyl)-1-n-pentylcyclohexane was dropped in a mixture of 2.5 g (0.11 mols) of magnesium and 300 ml of THF to obtain a Grignard reagent. The resultant solution was then dropped in a solution, in 500 ml of THF, of 29.5 g (0.1 mol) of 4-(trans-4-chloro-4-silacyclohexyl)-2-fluoro-1-difluoromethoxybenzene. The resultant product consisted of a mixture of trans and cis isomers with respect to the cyclohexane ring. The product was subjected to ordinary aftertreatments to obtain trans-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)-1-silacyclohexyl)butyl)-1-n-pentylcyclohexane, followed by isolation through chromatography to obtain 41.8 g (yield: 89%) of the intended trans isomer product.

reactant | 4-(trans-4-chloro-4-silacyclohexyl)-2-fluoro-1-difluoromethoxybenzene | 0.1 mol, 29.5 g | Cl[Si@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)OC(F)F)F | C12H14ClF3OSi
reactant | THF | 500 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(trans-4-(3-fluoro-4-difluoromethoxyphenyl)-1-silacyclohexyl)butyl)-1-n-pentylcyclohexane | yield: 89% | FC=1C=C(C=CC1OC(F)F)[C@@H]1CC[Si@H](CC1)CCCC[C@@H]1CC[C@H](CC1)CCCCC | C27H43F3OSi
